US07939528B2
A solution of 3,5-difluoro-2-nitroaniline (0.400 g, 2.30 mmol), Cs2CO3 (1.87 g, 5.74 mmol), and 4-hydroxybenzaldehyde (0.309 g, 2.53 mmol) in dimethylsulfoxide (5 mL) was heated at 80 degrees Centigrade for 2 hours and then cooled. Water was added and the organics extracted using ethyl acetate (2×50 mL). The combined organics were washed once in brine and dried (Na2SO4), filtered and concentrated. Chromatography on silica gel using a gradient of 20%-60% ethyl acetate/hexanes eluted the product to give 0.536 g of 4-[(3-amino-5-fluoro-4-nitrophenyl)oxy]benzaldehyde as a yellow solid.

reactant | 3,5-difluoro-2-nitroaniline | 2.30 mmol, 0.400 g | FC=1C(=C(N)C=C(C1)F)[N+](=O)[O-] | C6H4F2N2O2
reactant | Cs2CO3 | 5.74 mmol, 1.87 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-hydroxybenzaldehyde | 2.53 mmol, 0.309 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-[(3-amino-5-fluoro-4-nitrophenyl)oxy]benzaldehyde | 0.536 g | NC=1C=C(C=C(C1[N+](=O)[O-])F)OC1=CC=C(C=O)C=C1 | C13H9FN2O4
